US08080668B2
Step (iii): Preparation of [2-(4-Trifluoromethyl-phenylamino)-thiazol-4-yl]-acetic acid ethyl ester
4-Chloro-3-oxo-butyric acid ethyl ester was added to a suspension of (4-trifluoromethyl-phenyl)-thiourea (3 grams), obtained in step (ii), in ethanol (20 mL) and refluxed for about 12 hrs. The reaction mixture was cooled and the solid obtained was filtered and dried to give the pure product (4.1 grams).

reactant | 4-Chloro-3-oxo-butyric acid ethyl ester | C(C)OC(CC(CCl)=O)=O | C6H9ClO3
reactant | (4-trifluoromethyl-phenyl)-thiourea | 3 grams | FC(C1=CC=C(C=C1)NC(=S)N)(F)F | C8H7F3N2S
solvent | ethanol | 20 mL | C(C)O | C2H6O
product | [2-(4-Trifluoromethyl-phenylamino)-thiazol-4-yl]-acetic acid ethyl ester | 4.1 grams | C(C)OC(CC=1N=C(SC1)NC1=CC=C(C=C1)C(F)(F)F)=O | C14H13F3N2O2S
